Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x 2, right carotid 
endarterectomy
 
History of Present Illness:
___ year old gentleman with history of carotid artery disease and 
past stroke who noted some exertional dyspnea this past ___. 
He underwent a stress test which was abnormal and he was 
referred to a cardiologist. A cardiac catheterization was 
obtained which revealed severe left main, left anterior 
descending artery and circumflex artery disease. He does note 
some exercise intolerance, fatigue and exertional dyspnea 
however performs his daily activities without compromise. He was 
evaluated by the vascular surgery service for stroke risk 
stratafication and it was recommended that he have a 
concommittant right carotid endarterectomy. He presents today 
for bypass surgery and right carotid edarterectomy.
 
Past Medical History:
Coronary artery disease
Carotid stenosis
Chronic kidney disease
History of small stroke
Gout
Hypertension
Hyperlipidemia
BPH
Depression
s/p Skin graft for left arm burn
s/p Eye surgery for strabismus
 
Social History:
___
Family History:
Uncle died from an MI at ___

 
Physical Exam:
BP: 144/78. Heart Rate: 79. Resp. Rate: 16. O2 Saturation%: 100.
Height:69"    Weight: 176lb

General: Well-developed male in no acute distress. Voice is 
hoarse
Skin: Warm [X] Dry [X] intact [X]
HEENT: PERRLA [X] EOMI X[]
Neck:  Supple [X] Full ROM [X] No JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR [X] Irregular [] Murmur [] grade ______
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X] Edema trace
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: P  Left: P
DP           Right: P  Left: P
___           Right: P  Left: P
Radial       Right: P  Left: P

Carotid Bruit     Right: +   Left: -
 
Pertinent Results:
Intra-op TEE
Conclusions  
Pre-Bypass: 

The left atrium is mildly dilated. No spontaneous echo contrast 
is seen in the body of the left atrium. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. There are complex (>4mm) atheroma in the descending 
thoracic aorta. There are three aortic valve leaflets. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. There is no pericardial 
effusion. 

Post-Bypass:

Global LV and RV function remains normal. Mitral regurgitation 
is mild to moderate (___). Other valvular pathologies are 
unchanged. There is no evidence of aortic dissection. Remainder 
of the exam is unchanged from prior.   
.

___ 06:30AM BLOOD WBC-11.8* RBC-2.93* Hgb-9.2* Hct-29.2* 
MCV-100* MCH-31.4 MCHC-31.4 RDW-14.9 Plt ___
___ 06:30AM BLOOD ___ PTT-31.0 ___
___ 06:30AM BLOOD Glucose-112* UreaN-20 Creat-1.2 Na-134 
K-3.8 Cl-93* HCO___ AnGap-15
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Carotid Endarterectomy with Dr. 
___ CABG x 2 with Dr. ___.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient developed rapid atrial fibrillation which convertd to 
Sinus Rhytym with Lopressor titration, Diltiazem and Amiodarone. 
 AFib was less than 24 hours and the patient will not be 
discharged on Coumadin.  He received Haldol for confusion in the 
ICU, which cleared by the time he transferred to the floor.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 6 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged home with ___ in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
ALLOPURINOL [ZYLOPRIM] - Zyloprim 300 mg tablet. 1 (One)
tablet(s) by mouth once a day/pm -  (Prescribed by Other
Provider)
AMITRIPTYLINE - amitriptyline 10 mg tablet. 1 (One) tablet(s) by
mouth once a day/pm -  (Prescribed by Other Provider)
ATENOLOL - atenolol 100 mg tablet. 1 (One) tablet(s) by mouth
once a day/pm -  (Prescribed by Other Provider)
ATORVASTATIN - atorvastatin 40 mg tablet. 1 tablet(s) by mouth 
at
bedtime -  (Prescribed by Other Provider)
LOSARTAN - losartan 50 mg tablet. 1 tablet(s) by mouth once a
day/pm -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1
capsule(s) by mouth once a day/pm -  (Prescribed by Other
Provider)
TERAZOSIN - terazosin 2 mg capsule. 1 (One) capsule(s) by mouth
once a day/pm -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth once a day/pm -  (OTC)
MULTIVITAMIN [MULTI-DAY] - Multi-Day tablet. 1 tablet(s) by 
mouth
once a day/pm -  (Prescribed by Other Provider)
 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Terazosin 2 mg PO HS 
4. Acetaminophen 650 mg PO Q4H:PRN pain/fever 
5. Amiodarone 400 mg PO BID 
RX *amiodarone 400 mg 1 tablet(s) by mouth twice a day Disp #*56 
Tablet Refills:*0
6. Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Diltiazem 60 mg PO QID 
RX *diltiazem HCl [Cardizem] 60 mg 1 tablet(s) by mouth four 
times a day Disp #*120 Tablet Refills:*0
9. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
10. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
11. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
12. Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
13. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
14. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0
15. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
16. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth q4h prn Disp #*60 Tablet 
Refills:*0
17. Amitriptyline 10 mg PO HS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 2
Carotid stenosis s/p right carotid endarterectomy
Past medical history:
Chronic kidney disease
History of small stroke
Gout
Hypertension
Hyperlipidemia
BPH
Depression
s/p Skin graft for left arm burn
s/p Eye surgery for strabismus
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Tramadol
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage.
Edema 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___